US05354502
34 g (0.19 mol) of trans-4-butylcyclohexylacetonitrile, 43 g (0.76 mol) of KOH, 34 cm3 of water and 190 cm3 of ethanol were refluxed on a hot water bath until formation of ammonia gas stopped. The ethanol in the reactant was removed, the residue was dissolved in 100 cm3 of water, it was poured into a beaker containing 100 cm3 of concentrated HCl and 100 g of ice, and the deposited crystals were filtered and washed in water. The crystals were recrystallized from a solvent mixture of methanol and water to obtain 37 g (0.19 mol) of trans-4-butylcyclohexylacetic acid.

reactant | trans-4-butylcyclohexylacetonitrile | 0.19 mol, 34 g | C(CCC)[C@@H]1CC[C@H](CC1)CC#N | C12H21N
reactant | KOH | 0.76 mol, 43 g | [OH-].[K+]
reactant | water | 34 cm3 | O | H2O
reactant | ammonia | N | H3N
solvent | ethanol | 190 cm3 | C(C)O | C2H6O
product | trans-4-butylcyclohexylacetic acid | 0.19 mol, 37 g | C(CCC)[C@@H]1CC[C@H](CC1)CC(=O)O | C12H22O2
